### PR TITLE
Add primitive string type.

### PR DESCRIPTION
**Pull request by rlepigre**
Since refactoring `Constr.t` to combine primitive values into an intermediate type is not a clear win (see https://github.com/coq/coq/pull/17951), here is an attempt to add ~~primitive `char` and `string` types by simply extending `Constr.t` with corresponding primitive value constructors~~ a primitive `string` type by simply extending `Constr.t` with a corresponding value constructor.

Check list:
- [x] Added / updated **test-suite**.
- [x] documentation
- [x] Added **changelog**.
- [x] Opened **overlay** pull requests.
 
Overlays:
 - https://github.com/lukaszcz/coqhammer/pull/181
 - https://github.com/LPCIC/coq-elpi/pull/634
 - https://github.com/coq-tactician/coq-tactician/pull/83
 - https://github.com/coq-community/vscoq/pull/778
 - https://github.com/unicoq/unicoq/pull/93
 - https://github.com/ejgallego/coq-lsp/pull/746
 - https://github.com/QuickChick/QuickChick/pull/374
 - https://github.com/MetaCoq/metacoq/pull/1088
 - https://github.com/uds-psl/coq-library-undecidability/pull/223
   
<!-- Pointers to relevant developer documentation:

Contributing guide: https://github.com/coq/coq/blob/master/CONTRIBUTING.md

Test-suite: https://github.com/coq/coq/blob/master/test-suite/README.md

Changelog: https://github.com/coq/coq/blob/master/doc/changelog/README.md

Building the doc: https://github.com/coq/coq/blob/master/doc/README.md
Sphinx: https://github.com/coq/coq/blob/master/doc/sphinx/README.rst
doc_gram: https://github.com/coq/coq/blob/master/doc/tools/docgram/README.md

Overlays: https://github.com/coq/coq/blob/master/dev/ci/user-overlays/README.md

### CODE REVIEW

**Comment by silene** [comment]
Two preliminary remarks:
- Do not add new VM opcodes (especially some that will cause an instant segfault). Use existing opcodes instead. For example, `PString.cat` can directly be mapped to `CHECKCAMLCALL2`.
- It seems we do not gain much from having a primitive type `char`. It seems like using `int` would work just as well, if not better.

**Comment by rlepigre** [comment]
@silene I don't understand the code related to VM opcodes, so I'd really appreciate help here. By the way, why are many of these opcode named `CHECK*`? Are they not meant to correspond to specific instructions? (Your suggestion makes me think they are not.)

About your second point (using `int` as `char`), I'm not sure that this is the right thing, since `char` builds in the fact that the integer value is less than 256. Also, having a specific `char` type would probably be better when it comes to extraction? In any case, let's see what others think.

**Comment by silene** [comment]
The `CHECK` part means that they support open terms as input. (It happens that this is the most common behavior, and it would have been better to use a `NOCHECK` prefix for their uncommon counterparts, but what is done is done.) Some of them correspond to specific instructions, e.g., `CHECKADDINT63`; some of them work with arbitrary code, e.g., `CHECKCAMLCALL`.

In your case, the starting point would be to modify `Vmbytegen.get_caml_prim`, and from there, the other needed changes should flow naturally.

**Comment by silene** [comment]
> since `char` builds in the fact that the integer value is less than 256

Note that this is not even an intrinsic property of your type. It is just a consequence of axiom `chr_code_id`. If you were to replace `char` by `int`, then this axiomatic property would just move from axiom `chr_code_id` to axiom `make_get_spec`.

**Comment by JasonGross** [comment]
What is the benefit of having primitive strings over using `array int`?  The downside I'm concerned about is ad-hoc complication of the kernel and tcb.  (If the primary upside is extraction of literals, maybe something can be added to extraction in general?)
On the performance side:
- Are any of the operations asymptotically more efficient?  
- What are the constant factor speedups that we see for each operation?

**Comment by SkySkimmer** [comment]
Strings are more space efficient (1 byte / character instead of 1 word / character).
You could recover some efficiency by using all the bits in an int instead of just the lower 8 but since primitive ints are 63 bits it doesn't fit well.

**Comment by rlepigre** [comment]
@JasonGross using arrays of integers, you are either space-inefficient (by storing one character per word) or you need to work with an encoding which requires computation. We have several use-cases where what we want is a compact representation of names (for variables, functions, ...) from a source program. These names would typically be string literals in a (generated) Coq source file, and they would only be carried around during program verification (and also used as keys for lookups in a maps).

**Comment by silene** [comment]
> What are the constant factor speedups that we see for each operation?

I performed a small test by repetitively concatenating strings of various size until the total size reaches 100,000 characters. For `native_compute`, the speedup of having native strings would be between 300x and 400x. For `vm_compute`, it would be between 1000x and 3000x.

To improve the situation when working with strings, we could add a primitive concatenation operation on arrays. This time, the speedup for `native_compute`  would only be between 40x and 50x, while for `vm_compute`, it would be between 25x and 50x.

So, in addition to the fact that arrays occupy 8x more memory than strings (but this is hardly relevant performance-wise, unless you are actually filling your memory with strings), the things to remember are the following ones:
1. Arrays in Coq are persistent, so mutating them leaves a trail, which has a non-negligible cost.
2. Mutating/copying arrays in OCaml triggers the GC barrier, contrarily to strings (and floating-point arrays), which again has a non-negligible cost.
3. Iterating in the VM is damn slow.

Obviously, these numbers are only meaningful under the assumption that no mutating operations are ever added to a native Coq string type. If strings start offer mutations like arrays do, then the performance gains would be a lot less dramatic.

File: kernel/vmemitcodes.ml [hunk 1]
```diff
@@ -300,14 +300,23 @@ let check_prim_op = function
...
+  | Stringequal | Stringlt | Stringle
+    -> assert false
 
 let check_caml_prim_op = function
 | CAML_Arraymake -> opCHECKCAMLCALL2_1
 | CAML_Arrayget -> opCHECKCAMLCALL2
 | CAML_Arrayset -> opCHECKCAMLCALL3_1
 | CAML_Arraydefault | CAML_Arraycopy | CAML_Arraylength -> opCHECKCAMLCALL1
+| CAML_Charcode | CAML_Charchr -> opCHECKCAMLCALL1
+| CAML_Stringmake -> opCHECKCAMLCALL2_1
```
Comment (silene) [inline kernel/vmemitcodes.ml:315]: No, the last argument cannot be an accumulator. I don't think it would trigger a segfault, but it would at least make it trivial to prove false. So, you have to use `opCHECKCAMLCALL2` here.

File: kernel/vmemitcodes.ml [hunk 2]
```diff
@@ -300,14 +300,23 @@ let check_prim_op = function
...
+| CAML_Stringlength -> opCHECKCAMLCALL1
+| CAML_Stringget -> opCHECKCAMLCALL2
+| CAML_Stringsub -> opCHECKCAMLCALL3_1
```
Comment (silene) [inline kernel/vmemitcodes.ml:318]: Same remark here. So, `opCHECKCAMLCALL3` (which you might need to add since it does not seem it was ever needed for arrays).

Comment (rlepigre) [reply kernel/vmemitcodes.ml]: I added it, but I'm not sure about:
```diff
diff --git a/kernel/genOpcodeFiles.ml b/kernel/genOpcodeFiles.ml
index 40a86966ad..49347867a9 100644
--- a/kernel/genOpcodeFiles.ml
+++ b/kernel/genOpcodeFiles.ml
@@ -154,6 +154,7 @@ let opcodes =
     "CHECKCAMLCALL2_1", 2;
     "CHECKCAMLCALL1", 2;
     "CHECKCAMLCALL2", 2;
+    "CHECKCAMLCALL3", 2;
     "CHECKCAMLCALL3_1", 2;
     "STOP", 0
   |]
```
Does 2 need to be 3 here? Why do `CHECKCAMLCALL1` and `CHECKCAMLCALL2` both have arity 2?

Comment (silene) [reply kernel/vmemitcodes.ml]: This is the arity of the instruction from the point of view of the interpreter, that is, the length of the instruction (minus 1). This is orthogonal to the actual semantic arity of the instruction. So, 2 is correct here.

File: kernel/vmvalues.ml [hunk 3]
```diff
@@ -683,3 +695,15 @@ let parray_get_default = Obj.magic Parray.default
...
+let pchar_chr = Obj.magic Pstring.Char.chr
+
+let pstring_make = Obj.magic Pstring.make
+let pstring_length = Obj.magic Pstring.length
+let pstring_get = Obj.magic Pstring.get
+let pstring_sub = Obj.magic Pstring.sub
+let pstring_cat = Obj.magic Pstring.cat
+let pstring_equal = Obj.magic Pstring.equal
+let pstring_lt = Obj.magic Pstring.lt
+let pstring_le = Obj.magic Pstring.le
```
Comment (silene) [inline kernel/vmvalues.ml:709]: If I remember correctly, Coq's and OCaml's boolean values are encoded in opposite directions. So, extra work has to be performed here, something like
```ocaml
let pstring_equal = Obj.magic (fun x y -> if Pstring.equal x y then 0 else 1)
```

**Comment by Janno** [comment]
> You could recover some efficiency by using all the bits in an int instead of just the lower 8 but since primitive ints are 63 bits it doesn't fit well.

I have an implementation of this and it is what triggered https://github.com/coq/coq/issues/18646. Apart from the space problem with `vo` files (entirely in vm bytecode), there was also a drastic performance regression in our use cases. I never dove deeply into the performance. The example files I used were of the form `Definition x := Eval vm_compute in huge_term`.  `huge_term` did not have all that much string computation compared to its size. Despite this, performance was 25-50% worse than our current bytestring version.

File: kernel/vmvalues.ml (hunk 3 above)
Comment (JasonGross) [reply kernel/vmvalues.ml:709]: We should make sure there's some code in the test suite that ensures we get this right

Comment (rlepigre) [reply kernel/vmvalues.ml]: Yeah, I'll add tests for all the primitives, but I first need to figure out how to extend the notation mechanism to get literals. Doing anything without that is way too painful.

File: theories/Strings/PChar.v [hunk 4]
```diff
@@ -0,0 +1,15 @@
+Require Import Uint63.
+
+Primitive char := #char_type.
```
Comment (proux01) [inline theories/Strings/PChar.v:3]: I would also expect the implementation to be simpler by just using `int63_type` here.

File: theories/Strings/PChar.v [hunk 5]
```diff
@@ -0,0 +1,15 @@
...
+
+Primitive chr : int -> char := #char_chr.
+
+Module Export PCharNotations.
+  Declare Scope pchar_scope.
+  Delimit Scope pchar_scope with pchar.
+End PCharNotations.
+
+Axiom code_chr_id : forall c : char, chr (code c) = c.
+Axiom chr_code_id : forall i : int, (i <=? 255 = true)%uint63 -> code (chr i) = i.
```
Comment (proux01) [inline theories/Strings/PChar.v:15]: You'll probably also want an axiom stating that the result of `code` is always in the `[0, 255]` range.
Lemmas could be derived stating the injectivity of code and a kind of limited injectivity of chr.

Comment (rlepigre) [reply theories/Strings/PChar.v:15]: Done.

File: theories/Strings/PChar.v (hunk 4 above)
Comment (rlepigre) [reply theories/Strings/PChar.v:3]: Actually, if `char` is defined to be `int`, then there is no point in having `code` and `chr` primitives, right? I mean, they'd just be identity functions.

Comment (proux01) [reply theories/Strings/PChar.v:3]: Indeed

**Comment by proux01** [comment]
Has this been tested with `native_compute`, I would have expected some additions in `kernel/nativevalues.ml`?

**Comment by rlepigre** [comment]
> Has this been tested with `native_compute`, I would have expected some additions in `kernel/nativevalues.ml`?

No, not yet, I'll add an item to the TODO list.

**Comment by herbelin** [comment]
> Since refactoring Constr.t to combine primitive values into an intermediate type is not a clear win (see #17951)

By curiosity, is there a summary somewhere of the pros and cons of #17951?

**Comment by rlepigre** [comment]
> By curiosity, is there a summary somewhere of the pros and cons of #17951?

I don't think there is one @herbelin, but basically:
- the main problem is that introducing a pointer indirection for primitive values will incur a performance overhead,
- the main advantage is that some parts of the code become (marginally) simpler by handling all primitive values uniformly.

My initial thought was that by combining primitive under a single constructor would allow for such values to be handled uniformly everywhere, including in plugins, and that this would make it simpler to add new primitive types. However, I'm not sure this is worth the trouble and performance penalty anymore: how often do we add new primitive types anyway?

File: kernel/vmvalues.ml (hunk 3 above)
Comment (rlepigre) [reply kernel/vmvalues.ml]: I added tests.

File: theories/Strings/PChar.v (hunk 4 above)
Comment (rlepigre) [reply theories/Strings/PChar.v:3]: I thought a bit more about your suggestion, and I don't think this can work. The issue is that when inferring the type of a `Int i` constructor, one would need to decide whether to infer type `int` or `char`. I don't see how to implement that without introducing some kind of meta-variable that could stand for either until a decision must be made.

Also, using `#int63_type` here just produces an error, since the kernel does check that primitive types are used a single time. And using `Definition char := int.` would not cut it I think, because we could have weird issues with notations for characters: integers could be printed as characters, and the other way around.

Comment (silene) [reply theories/Strings/PChar.v:3]: There seems to be various misconceptions about notations here. Consider the following examples:
```coq
Require Import Sint63 Uint63.

Definition foo := Eval cbv in (0 - 1)%uint63.
Axiom bar : int -> Prop.
Eval cbv in bar foo. (* = bar 9223372036854775807 *)

Arguments bar (_)%_sint63.
Eval cbv in bar foo. (* = bar (-1) *)

Definition sint := int.
Bind Scope sint63_scope with sint.
Axiom baz : sint -> Prop.
Eval cbv in baz foo. (* = baz (-1) *)
```
As you can see, even though there is only one type `int`, there are various ways to change the way it is displayed. Adding a new scope `char63_scope` seems a lot less intrusive than adding a brand new primitive type and the associated operations.

Comment (rlepigre) [reply theories/Strings/PChar.v:3]: OK, I think I see what you mean. I'll give this a go.

Comment (rlepigre) [reply theories/Strings/PChar.v]: Done.

File: theories/Strings/PString.v [hunk 6]
```diff
@@ -0,0 +1,77 @@
...
+Arguments sub _%_pstring _%_pstring.
+
+Primitive eqb : string -> string -> bool := #string_equal.
+Arguments eqb _%_pstring _%_pstring.
+
+Primitive ltb : string -> string -> bool := #string_lt.
+Arguments ltb _%_pstring _%_pstring.
+
+Primitive leb : string -> string -> bool := #string_le.
+Arguments leb _%_pstring _%_pstring.
```
Comment (rlepigre) [inline theories/Strings/PString.v:49]: It'd be more flexible to add some kind of `compare` function, but I dunno what return type to give it. Does anyone have an opinion on that?

Comment (silene) [reply theories/Strings/PString.v:49]: `Init.Datatypes.comparison`

Comment (rlepigre) [reply theories/Strings/PString.v]: I somehow missed that `Init.Datatypes.comparison` was already made available to primitives somehow... I switched to a `compare` function now. I suspect however that what I'm doing in `Vmemitcodes.check_caml_prim_op` is not correct. Do I need a specific instruction here? It seems like there is one for `Int63compare` for example.

File: test-suite/primitive/string/test.v [hunk 7]
```diff
@@ -0,0 +1,81 @@
...
+(* Proof. vm_compute. *)
+
+Goal get "aaa" 0 = "a"%char63.
+Proof. vm_compute. syntactic_refl. Qed.
+
+(* Goal sub "abcd" 2 1 = "c". *)
+(* Proof. vm_compute. *)
+
+(* Goal cat "ab" "ba" = "abba". *)
+(* Proof. vm_compute. *)
```
Comment (rlepigre) [inline test-suite/primitive/string/test.v:72]: I'm getting assertion failures with some tests:
```
Error: Anomaly "File "pretyping/vnorm.ml", line 95, characters 5-11: Assertion failed."
Please report at http://coq.inria.fr/bugs/.
```
This one tests that the type of a constr is `int`, so I guess that does not work well with `char63`.

I tried commenting out the assertion, but there is another one later in the code.
```
Error: Anomaly "File "pretyping/vnorm.ml", line 360, characters 11-17: Assertion failed."
Please report at http://coq.inria.fr/bugs/.
```
 Any idea what needs to be done here?
 
 Also, I guess I need to extend `kernel/values.mli` with a `Vstring of string` constructor, right?

Comment (silene) [reply test-suite/primitive/string/test.v:72]: Both failures are presumably caused by the fact that you did not add a `Vstring` constructor. In particular, the code at the very end of `Vmvalues.whd_val` could have been a bit more defensive, so that it failed earlier. It should have looked like
```ocaml
    else if tag <= Obj.last_non_constant_constructor_tag then Vblock (Obj.obj o)
    else assert false
```
to which you would have added
```ocaml
    else if Int.equal tag Obj.string_tag then Vstring (Obj.magic v)
```

Comment (rlepigre) [reply test-suite/primitive/string/test.v]: That's indeed the issue, thanks a lot!

File: test-suite/primitive/string/test.v [hunk 8]
```diff
@@ -0,0 +1,104 @@
...
+Goal compare "ab" "a" = Gt.
+Proof. vm_compute. syntactic_refl. Qed.
+
+Goal compare "a" "ab" = Lt.
+Proof. vm_compute. syntactic_refl. Qed.
+
+(* [native_compute] *)
+
+Goal make 5 "a" = cat (make 2 "a") (make 3 "a").
+Proof. native_compute. syntactic_refl. Qed.
```
Comment (rlepigre) [inline test-suite/primitive/string/test.v:86]: > > Has this been tested with `native_compute`, I would have expected some additions in `kernel/nativevalues.ml`?
> 
> No, not yet, I'll add an item to the TODO list.

@proux01 it seems that `native_compute` now works as expected. I tested locally, but I don't think the test-suite runs with `native_compute` enabled, right? Is `native_compute` tested at all in CI?

Comment (SkySkimmer) [reply test-suite/primitive/string/test.v:86]: CI runs the test suite with native enabled

File: theories/Strings/PString.v [hunk 9]
```diff
@@ -0,0 +1,240 @@
...
+  forall s i,
+    (i <? length s = true)%uint63 ->
+    char63_valid (get s i).
+
+Axiom make_get_spec :
+  forall i j c,
+    length_valid i ->
+    char63_valid c ->
+    (j <? i = true)%uint63 ->
+    get (make i c) j = c.
```
Comment (silene) [inline theories/Strings/PString.v:90]: I think the following specification would be more useful. (Obviously, `Pstring.make` has to be modified accordingly.)
```suggestion
    (j <? i = true)%uint63 ->
    get (make i c) j = land c 255.
```

File: theories/Strings/PString.v [hunk 10]
```diff
@@ -0,0 +1,240 @@
...
+    (i <? length s1 + length s2 = true)%uint63 ->
+    get (cat s1 s2) i = get s2 (i - length s1).
+
+(** * Properties of string comparison *)
+
+Axiom string_eq_ext :
+  forall s1 s2,
+    string_eq s1 s2 <->
+    (length s1 = length s2 /\
+     forall i, i <? length s1 = true -> (get s1 i =? get s2 i = true))%uint63.
```
Comment (silene) [inline theories/Strings/PString.v:117]:
```suggestion
     forall i, (i <? length s1)%uint63 = true -> get s1 i = get s2.
```

File: theories/Strings/PString.v [hunk 11]
```diff
@@ -0,0 +1,240 @@
...
+
+Axiom string_eq_correct :
+  forall s1 s2 : string, string_eq s1 s2 -> s1 = s2.
+
+Axiom string_eq_refl :
+  forall s : string, string_eq s s.
```
Comment (silene) [inline theories/Strings/PString.v:123]: This looks like a corollary of `string_eq_ext`.

File: theories/Strings/PString.v [hunk 12]
```diff
@@ -0,0 +1,240 @@
...
+    exists i,
+      (i <? length s1 = true)%uint63 /\
+      (i <? length s2 = true)%uint63 /\
+      (forall j, j <=? i = true -> (get s1 j =? get s2 j = true))%uint63 /\
+      ((i =? length s1 - 1 = true /\
+        length s1 <? length s2 = true)%uint63
+       \/
+       (i + 1 <? length s1 = true /\
+        i + 1 <? length s2 = true /\
+        get s1 (i+1) <=? get s2 (i+1) = true)%uint63).
```
Comment (silene) [inline theories/Strings/PString.v:143]: I am pretty sure one can derive `False` from this axiom.

Needless to say, this axiom is way too complicated for its own good.

Comment (rlepigre) [reply theories/Strings/PString.v:143]: I can't say I'm too happy about this axiom, but do you have an alternative in mind?

Comment (SkySkimmer) [reply theories/Strings/PString.v:143]: I think the axiom should be on the primitive `compare` not the derived `lt`.
Then maybe define `to_list : string -> list char` and the axiom says `forall s s', compare_string s s' = compare_list compare_int (to_list s) (to_list s')` (not sure if we have compare_list already defined)

Comment (silene) [reply theories/Strings/PString.v:143]: I am not sure whether we have `compare_list`, but we do have `String.compare`. More generally, I think we should strive to express all our axioms in terms of fully-defined inductive functions. (This is something we had in the old days of retroknowledge and that we unfortunately lost.) And then, properties like transitivity would be trivial corollaries.

Comment (rlepigre) [reply theories/Strings/PString.v]: The axiom was indeed wrong, but it should be fixed now. I'll look into the other possibilities when I have a minute.

File: kernel/environ.ml [hunk 13]
```diff
@@ -673,15 +673,32 @@ let is_float64_type env c =
   | None -> false
   | Some c' -> Constant.CanOrd.equal c c'
 
+let is_char_type env c =
+  match env.retroknowledge.Retroknowledge.retro_char with
+  | None -> false
+  | Some c' -> Constant.CanOrd.equal c c'
+
```
Comment (proux01) [inline kernel/environ.ml:680]:
```suggestion
```

File: kernel/nativevalues.ml [hunk 14]
```diff
@@ -786,6 +790,79 @@ let next_down accu x =
   if is_float x then no_check_next_down x
   else apply accu x
 
+(** Support for primitive strings *)
```
Comment (proux01) [inline kernel/nativevalues.ml:793]: Please keep that in its original file, so as to make the diff more readable.

File: kernel/retroknowledge.ml [hunk 15]
```diff
@@ -19,6 +19,8 @@ open Names
 type retroknowledge = {
     retro_int63 : Constant.t option;
     retro_float64 : Constant.t option;
+    retro_char : Constant.t option;
```
Comment (proux01) [inline kernel/retroknowledge.ml:22]:
```suggestion
```

**Review by proux01 — COMMENTED** [review]
A few comments. About the specification, I concur with Guillaume that it would be better to have it in terms of equivalence with an inductive implementation, like it's done for int and float.

File: theories/Strings/PString.v [hunk 16]
```diff
@@ -0,0 +1,236 @@
...
+Definition string_ge (s1 s2 : string) : Prop := not (string_lt s1 s2).
+
+Definition empty : string := ""%pstring.
+
+(** * Properties of string length *)
+
+Definition length_valid (i : int) : Prop := (i <=? max_length = true)%uint63.
+
+Definition range_valid (s : string) (off len : int) : Prop :=
+  (off <? length s = true /\ len <=? length s - off = true)%uint63.
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply theories/Strings/PString.v:59]: I believe the first conjunct ensures that there is no overflow, or am I missing something?

On a related point: I'm tempted to change the implementation of `sub` so that `sub s (length s) 0` gives the empty string. I'm not sure if that's the right thing to do, since OCaml's `String.sub` function would raise an exception in that case, and we might want to remain closer to it? On the other hand, allowing the offset to be `length s` allows to have less special cases in lemmas. For example, you can then prove `s = cat (sub s 0 n) (sub s n (lenght s - n))` for all `n <= length s`, which can be convenient I think. Any opinion on this?

File: kernel/nativevalues.ml (hunk 14 above)
Comment (rlepigre) [reply kernel/nativevalues.ml:793]: I'm sorry, I don't understand that comment.

File: pretyping/vnorm.ml [hunk 17]
```diff
@@ -92,8 +92,8 @@ let construct_of_constr const env sigma tag typ =
     let ctyp = type_constructor mind mib u (mip.mind_nf_lc.(i-1)) params in
     (mkApp(mkConstructUi(indu,i), params), ctyp)
   | _ ->
-     assert (Constr.equal t (Typeops.type_of_int env));
-      (mkInt (Uint63.of_int tag), t)
+    (*assert (Constr.equal t (Typeops.type_of_int env));*)
+    (mkInt (Uint63.of_int tag), t)
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply pretyping/vnorm.ml]: Something I forgot to remove while debugging something.

File: theories/Strings/PString.v (hunk 16 above)
[the remark this answers is not in the document]
Comment (silene) [reply theories/Strings/PString.v:59]: OCaml does not raise an exception for `sub s (length s) 0` (but it does for `sub s (length s + 1) 0`.

[the remark this answers is not in the document]
Comment (rlepigre) [reply theories/Strings/PString.v:59]: Ah indeed. Then that makes even more sense.

File: theories/Strings/PString.v [hunk 18]
```diff
@@ -0,0 +1,236 @@
+Require Import Uint63.
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply theories/Strings/PString.v:1]: I split the primitives to their own files, and same for the axioms. The rest is still in a single for for now, but still a work in progress.

File: interp/notation.ml [hunk 19]
```diff
@@ -408,6 +408,8 @@ type target_kind =
 type string_target_kind =
   | ListByte
   | Byte
+  | PString
+  | IntCharCode
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply interp/notation.ml:412]: I'm not sure that's possible since `int` is not an inductive (at least I could not make it work).

[the remark this answers is not in the document]
Comment (proux01) [reply interp/notation.ml:412]: Even using `int_wrap`? (or something like that, take inspiration of sint63.v for instance)

File: kernel/nativevalues.ml (hunk 14 above)
Comment (proux01) [reply kernel/nativevalues.ml:793]: You move the code below from another file, making your edits harder to spot, please keep it there.

File: interp/notation.ml (hunk 19 above)
[the remark this answers is not in the document]
Comment (rlepigre) [reply interp/notation.ml:412]: Ah, I managed to make this work. The issue I had was that the string notation stuff had to be registered first...

One limitation of doing what you suggest, though, is that if we want to support writing `"255"%char63` then we need to implement the parsing in Coq instead of OCaml (currently I'm using the same code as for the `Byte` type, so this just works). I think I would prefer keeping the current code in the end, but that's up to you: what do you think?

File: kernel/nativevalues.ml (hunk 14 above)
Comment (rlepigre) [reply kernel/nativevalues.ml:793]: I don't think I moved anything, this seems like only additions.

The only place where I moved things is in the syntax plugin, but I made that a separate commit.

File: test-suite/primitive/string/test.v [hunk 20]
```diff
@@ -0,0 +1,104 @@
...
+Open Scope uint63_scope.
+Open Scope pstring_scope.
+
+Check (eq_refl : length (make 0              "a") = 0         ).
+Check (eq_refl : length (make 42             "a") = 42        ).
+Check (eq_refl : length (make max_length     "a") = max_length).
+Check (eq_refl : length (make (max_length+1) "a") = max_length).
+
+Check (eq_refl : make 0 "a" = "").
+Check (eq_refl : make 5 "a" = "aaaaa").
```
Comment (proux01) [inline test-suite/primitive/string/test.v:12]: BTW, this is fine when it comes to testing the parsing but a printing test is probably also in order in test-suite/output (c.f. test-suite/output/FloatNumberSyntax.v for instance).

File: interp/notation.ml (hunk 19 above)
[the remark this answers is not in the document]
Comment (proux01) [reply interp/notation.ml:412]: Well, if really needed this can still be implemented in gallina, no need for the OCaml code. But isn't `255%uint63` enough?

File: kernel/nativevalues.ml (hunk 14 above)
Comment (proux01) [reply kernel/nativevalues.ml:793]: That's what I mean. Well I guess isolating it like that in a commit make it somewhat fine.

**Comment by proux01** [comment]
So if I understand correctly, the only missing things here are the executable spec and the doc. FWIW if we want it into upcoming 8.20, this must be merged before June 17th.

File: interp/notation.ml (hunk 19 above)
[the remark this answers is not in the document]
Comment (rlepigre) [reply interp/notation.ml]: Yeah, that's indeed probably enough.

File: theories/Strings/PrimString.v [hunk 21]
```diff
@@ -0,0 +1,73 @@
...
+
+Module Export Char63Notations.
+  Declare Scope char63_scope.
+  Delimit Scope char63_scope with char63.
+  Definition parse (s : string) : option int_wrapper :=
+    if (length s =? 1)%uint63 then Some (wrap_int (get s 0)) else None.
+  Definition print (i : int_wrapper) : option string :=
+    if (i.(int_wrap) <? 256)%uint63 then Some (make 1 i.(int_wrap)) else None.
+  String Notation int_wrapper parse print : char63_scope.
+  Coercion int_wrap : int_wrapper >-> int.
```
Comment (rlepigre) [inline theories/Strings/PrimString.v:50]: To make the notation work, I had to use this coercion. Is that OK, or is there a better approach here?

Comment (proux01) [reply theories/Strings/PrimString.v:50]: Do you have an example of something that doesn't work? I can't reproduce.

Comment (rlepigre) [reply theories/Strings/PrimString.v:50]: For example, the test file I added has failures. Basically, using the notation gives a type error for me.

You can also try `Check make 2 "c".` at the very end of `PrimString.v`.

Comment (proux01) [reply theories/Strings/PrimString.v:50]: So that's not a printing issue, rather a parsing one. The coercion is probably fine, otherwise you can copy what's done in number notation to string notation so that you can register the string notation for type `int` rather than `int_wrapper`.

File: doc/sphinx/language/core/primitive.rst [hunk 22]
```diff
@@ -171,3 +171,48 @@ the array are modified have O(n) access time, the same as a list. The version th
...
+Primitive Strings
+----------------
+
+The language of terms features immutable strings as values. The type of such a
+value is *axiomatized*; it is declared through the following sentence (excerpt
+from the :g:`PrimString` module):
+
+.. coqdoc::
+
+   Primitive string := #string_type.
```
Comment (jfehrle) [inline doc/sphinx/language/core/primitive.rst:186]: How about making this a ..coqtop instead, which will check the syntax?

File: doc/sphinx/language/core/primitive.rst [hunk 23]
```diff
@@ -171,3 +171,48 @@ the array are modified have O(n) access time, the same as a list. The version th
...
 are updated so that they still represent the same values.
+
+.. _primitive-string:
+
+Primitive Strings
+----------------
+
+The language of terms features immutable strings as values. The type of such a
+value is *axiomatized*; it is declared through the following sentence (excerpt
+from the :g:`PrimString` module):
```
Comment (jfehrle) [inline doc/sphinx/language/core/primitive.rst:182]:
```suggestion
The language of terms supports immutable strings as values. Primitive strings
are *axiomatized*.  The type is declared through the following sentence (excerpt
from the :g:`PrimString` module):
```

"axiomatized" seems like the wrong term here, certainly not the usual meaning (where are the axioms and what are they?).  Is there a better term?  "built-in"?  Also seemed like it should be 2 sentences instead of joined with a semicolon.

**Review by jfehrle — COMMENTED** [review]
A couple suggestions

File: doc/sphinx/language/core/primitive.rst (hunk 23 above)
Comment (rlepigre) [reply doc/sphinx/language/core/primitive.rst:182]: Thanks for the comments! I dunno what terminology is best here: this sentence (like the rest of the section) is basically copy-pasted from the section on primitive floating-point numbers. Maybe we should just keep the different sections on primitives uniform so that the whole page can be edited more easily when someone gets to it? (This documentation page could use some love, given the amount of duplication it contains, but probably not in this PR.)

Comment (jfehrle) [reply doc/sphinx/language/core/primitive.rst:182]: Yeah, I noticed it was copy-paste and that the wording wasn't too helpful.  But more work than I (or you) want to take on today.  I would have to research the feature and do experiments to know what to say.  Agreed, not in this PR.

File: doc/sphinx/language/core/primitive.rst [hunk 24]
```diff
@@ -171,3 +171,48 @@ the array are modified have O(n) access time, the same as a list. The version th
 changes dynamically upon each get and set call: the current list of modifications
 is applied to the native array and the lists of modifications of the other versions
 are updated so that they still represent the same values.
+
+.. _primitive-string:
+
+Primitive Strings
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply doc/sphinx/language/core/primitive.rst]: Done.

File: doc/sphinx/language/core/primitive.rst (hunk 22 above)
Comment (rlepigre) [reply doc/sphinx/language/core/primitive.rst:186]: Let's not do that for consistency with the other sections.

**Comment by proux01** [comment]
Note that you also need to document the changes you made to `String Notation` in `doc/sphinx/user-extensions/syntax-extensions.rst`

**Comment by proux01** [comment]
Ideally, you should also provide a user-oriented documentation for the library part in `doc/sphinx/language/coq-library.rst` (you can take example of what has been done for floats there).

**Comment by rlepigre** [comment]
> Ideally, you should also provide a user-oriented documentation for the library part in `doc/sphinx/language/coq-library.rst` (you can take example of what has been done for floats there).

I added more documentation, hopefully that's enough for now.

File: theories/Strings/PString.v (hunk 12 above)
Comment (rlepigre) [reply theories/Strings/PString.v]: This should be mostly addressed by `PString.string_cmp_spec` and `PString.string_cmp_agree`.

File: test-suite/primitive/string/test.v [hunk 25]
```diff
@@ -0,0 +1,104 @@
...
+  end.
+
+Goal make 5 "a" = cat (make 2 "a") (make 3 "a").
+Proof. lazy. syntactic_refl. Qed.
+
+Goal make 5 "a" = cat (make 2 "a") (make 3 "a").
+Proof. cbn. syntactic_refl. Qed.
+
+Goal make 5 "a" = cat (make 2 "a") (make 3 "a").
+Proof. cbv. syntactic_refl. Qed.
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply test-suite/primitive/string/test.v:58]: Turns out `simpl` was broken (missing cases), so I fixed it and added a test for it.

Also, `hnf` does not seem to deal with primitive in general (for example, it does not reduce `UInt63.add 0 0`). I'm not gonna fix it in that MR.

File: test-suite/primitive/string/test.v [hunk 26]
```diff
@@ -0,0 +1,104 @@
+Require Import Uint63 PString.
+
+Open Scope uint63_scope.
+Open Scope pstring_scope.
+
+Check (eq_refl : length (make 0              "a") = 0         ).
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply test-suite/primitive/string/test.v:6]: Done.

File: theories/Strings/PrimString.v (hunk 21 above)
Comment (rlepigre) [reply theories/Strings/PrimString.v:50]: I think that what you are suggesting here is to re-add the code you had me remove in a previous iteration, right? Or am I missing something?

File: test-suite/primitive/string/test.v (hunk 25 above)
[the remark this answers is not in the document]
Comment (proux01) [reply test-suite/primitive/string/test.v]: Sounds wrong:
```Coq
Require Import Uint63.
Eval hnf in (0 + 0)%uint63.
(* = 0%uint63 *)
```

File: theories/Strings/PrimString.v (hunk 21 above)
Comment (proux01) [reply theories/Strings/PrimString.v:50]: I don't think so but I should have a closer look.

File: test-suite/primitive/string/test.v (hunk 25 above)
[the remark this answers is not in the document]
Comment (rlepigre) [reply test-suite/primitive/string/test.v]: OK, I was just stupid: of course `hnf` does not do anything on a goal of the form `_ = _`. The conclusion is that `hnf` does reduce the string primitives as expected.

**Comment by rlepigre** [comment]
@coqbot run full ci

**Comment by rlepigre** [comment]
@coqbot run full ci

**Comment by rlepigre** [comment]
@coqbot run full ci

**Comment by rlepigre** [comment]
@coqbot run full ci

File: theories/Strings/PrimString.v [hunk 27]
```diff
@@ -0,0 +1,73 @@
+Require Import Uint63.
```
Comment (proux01) [inline theories/Strings/PrimString.v:1]: This shouldn't require `Uint63` but rather `PrimInt63`, otherwise this won't be easily loadable in the debuger.

**Review by proux01 — COMMENTED** [review]
It seems this is only missing an executable specification (using `list int` is probably the easiest solution), maybe some overlays, green CI, a last review and this will be good to go.

File: theories/Strings/PrimString.v (hunk 27 above)
Comment (rlepigre) [reply theories/Strings/PrimString.v:1]: The executable specification is mostly there in the `PString` module:
- There are `to_list` and `of_list` functions with proofs that `of_list (to_list s) = s`, and `to_list (of_list l) = l` (with the expected condition on the length of `l`).
- An alternative Gallina implementation of `compare`, using only `length` and `get`, proved equivalent to the primitive.

**Comment by rlepigre** [comment]
@coqbot run full ci

File: theories/Strings/PString.v [hunk 28]
```diff
@@ -0,0 +1,882 @@
...
+Require Export PrimString.
+Require Export PrimStringAxioms.
+Require Import Coq.micromega.Lia.
+Require Import Coq.micromega.ZifyUint63.
+Require Import Coq.micromega.Zify.
+Require Import Coq.Numbers.Cyclic.Int63.Ring63.
+Require Import ZArith.
+
+(* Circumventing https://github.com/coq/coq/issues/19150 *)
+Ltac Zify.zify_post_hook ::= idtac.
```
Comment (JasonGross) [inline theories/Strings/PString.v:11]: Why is this done here rather than in the downstream developments that import PString?  It seems like it'll interfere with more than just https://github.com/coq/coq/issues/19150.

File: theories/Strings/PrimStringAxioms.v [hunk 29]
```diff
@@ -0,0 +1,86 @@
...
+
+(** * Properties of string length *)
+
+Axiom valid_length :
+  forall s, length_valid (length s).
+
+Axiom make_length_spec :
+  forall i c,
+    length_valid i ->
+    length (make i c) = i.
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:21]: When length is not valid, what happens with `make`?  Does it anomaly?  Crash?  Give the empty string?

File: theories/Strings/PrimStringAxioms.v [hunk 30]
```diff
@@ -0,0 +1,86 @@
...
+
+Axiom sub_length_spec :
+  forall s off len,
+    range_valid s off len ->
+    length (sub s off len) = len.
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:26]: What does `sub` do when the range is not valid?

File: theories/Strings/PrimStringAxioms.v [hunk 31]
```diff
@@ -0,0 +1,86 @@
...
+
+Axiom cat_length_spec :
+  forall s1 s2,
+    length_valid (length s1 + length s2)%uint63 ->
+    (length (cat s1 s2) = length s1 + length s2)%uint63.
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:31]: Does `cat` crash if the strings are too long?

File: theories/Strings/PrimStringAxioms.v [hunk 32]
```diff
@@ -0,0 +1,86 @@
...
+
+(** * Properties of string get *)
+
+Axiom get_valid :
+  forall s i,
+    (i <? length s = true)%uint63 ->
+    char63_valid (get s i).
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:38]: What does `get` do out of bounds?

File: theories/Strings/PrimStringAxioms.v [hunk 33]
```diff
@@ -0,0 +1,86 @@
...
+    length (make i c) = i.
+
+Axiom sub_length_spec :
+  forall s off len,
+    range_valid s off len ->
+    length (sub s off len) = len.
+
+Axiom cat_length_spec :
+  forall s1 s2,
+    length_valid (length s1 + length s2)%uint63 ->
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:30]: Is there risk of overflow here?

**Review by JasonGross — DISMISSED** [review]
One lesson I've learnt from working with `Z` is that specs with preconditions are a pain, and it's much nicer to work with specs that don't needlessly assume preconditions.  I presume the primitives all do something sensible on invalid values (perhaps with the exception of `make`, which could just OOM on too large strings); they must reduce to something in the empty context to preserve strong normalization and subject reduction, and they should anyway not break the ability to fully normalize under binders in inconsistent contexts.  The behavior must be consistent across machines and runs of Coq, or else we could prove False.  So we might as well spec a sensible behavior, right?

File: theories/Strings/PrimStringAxioms.v (hunk 29 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:21]: All primitives are total functions, in the case of `make`, the actual length is the minimum between `i` and `max_length`.

File: theories/Strings/PrimStringAxioms.v (hunk 30 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:26]: It gives an empty string.

File: theories/Strings/PrimStringAxioms.v (hunk 31 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:31]: It also gives an empty string.

File: theories/Strings/PrimStringAxioms.v (hunk 32 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:38]: It returns 0.

File: theories/Strings/PrimStringAxioms.v (hunk 33 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:30]: No, because `max_length` is many times smaller than `max_int`.

File: theories/Strings/PrimStringAxioms.v (hunk 29 above)
Comment (JasonGross) [reply theories/Strings/PrimStringAxioms.v:21]: Can we just spec that, then?  It's not like changing it later would be backwards compatible.

File: theories/Strings/PrimStringAxioms.v (hunk 31 above)
Comment (JasonGross) [reply theories/Strings/PrimStringAxioms.v:31]: Would it be nicer to have it always cat s1 with whatever prefix of s2 is short enough to fix?  Then we can just spec this as min of the max length and the sum, the get L axiom doesn't need to know that the lengths are short, etc

File: theories/Strings/PString.v (hunk 28 above)
Comment (rlepigre) [reply theories/Strings/PString.v]: Right, of course.

File: theories/Strings/PrimStringAxioms.v (hunk 29 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v]: I made all the specs talk about the full domain, removing side-conditions.

File: plugins/extraction/miniml.mli [hunk 34]
```diff
@@ -128,6 +128,8 @@ and ml_ast =
   | MLmagic  of ml_ast
   | MLuint   of Uint63.t
   | MLfloat  of Float64.t
+  | MLchar   of Char.t
```
Comment (silene) [inline plugins/extraction/miniml.mli:131]: Is it still relevant?

File: theories/Strings/PrimStringAxioms.v [hunk 35]
```diff
@@ -0,0 +1,47 @@
+Require Import Uint63.
+Require Import PrimString.
+Require Import PrimStringSpec.
```
Comment (silene) [inline theories/Strings/PrimStringAxioms.v:3]: Was there some rationale to have `PrimStringSpec` outside of `PrimStringAxioms`? The split seems a bit excessive to me.

File: plugins/extraction/miniml.mli (hunk 34 above)
Comment (rlepigre) [reply plugins/extraction/miniml.mli]: No it is not, fixed.

File: theories/Strings/PrimStringAxioms.v (hunk 35 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:3]: Not really, I'll merge them.

File: test-suite/output/PStringExtraction.out [hunk 36]
```diff
@@ -0,0 +1,59 @@
+File "./output/PStringExtraction.v", line 25, characters 0-23:
```
[the remark this answers is not in the document]
Comment (SkySkimmer) [reply test-suite/output/PStringExtraction.out:1]: you can write a misc/ test instead of using the machinery for output/
misc/ is arbitrary shell scripts

**Comment by rlepigre** [comment]
@coqbot run full ci

File: theories/Strings/PString.v [hunk 37]
```diff
@@ -0,0 +1,1052 @@
...
+  rewrite (cat_spec_valid_length s1 s2 Hvalid), List.length_app in Hlen.
+  rewrite <-!length_spec in Hlen.
+  apply to_Z_inj. rewrite Uint63.add_spec, Z.mod_small; lia.
+Qed.
+
+(** * Properties of string get *)
+
+Lemma get_valid (s : string) (i : int) :
+  (i <? length s = true)%uint63 ->
+  char63_valid (get s i).
```
Comment (silene) [inline theories/Strings/PString.v:139]: I think the property is universally true, per `get_spec`. In fact, the lemma does not seem that useful.

File: theories/Strings/PString.v [hunk 38]
```diff
@@ -0,0 +1,1052 @@
...
+  rewrite List.nth_error_skipn in Hget1.
+  rewrite Uint63.add_spec, Z.mod_small in Hget2; [|lia].
+  rewrite Z2Nat.inj_add in Hget2; [|lia|lia].
+  rewrite Hget1 in Hget2. injection Hget2 as ->. reflexivity.
+Qed.
+
+Lemma cat_get_spec_l (s1 s2 : string) (i : int) :
+  length_valid (length s1 + length s2)%uint63 ->
+  (i <? length s1 = true)%uint63 ->
+  get (cat s1 s2) i = get s1 i.
```
Comment (silene) [inline theories/Strings/PString.v:195]: Is the `length_valid` hypothesis needed?

File: theories/Strings/PString.v [hunk 39]
```diff
@@ -0,0 +1,1052 @@
...
+  rewrite List.nth_error_app1 in Hget1.
+  2:{ rewrite <-length_spec. lia. }
+  rewrite Hget1 in Hget2. injection Hget2 as ->. reflexivity.
+Qed.
+
+Lemma cat_get_spec_r (s1 s2 : string) (i : int) :
+  length_valid (length s1 + length s2)%uint63 ->
+  (i <? length s1 = false)%uint63 ->
+  (i <? length s1 + length s2 = true)%uint63 ->
+  get (cat s1 s2) i = get s2 (i - length s1).
```
Comment (silene) [inline theories/Strings/PString.v:218]: Is the `length_valid` hypothesis needed?

File: theories/Strings/PString.v [hunk 40]
```diff
@@ -0,0 +1,1052 @@
...
+
+Lemma to_list_eq_length (s1 s2 : string) :
+  to_list s1 = to_list s2 -> length s1 = length s2.
+Proof.
+  intros Heq. rewrite !length_spec_int, Heq. reflexivity.
+Qed.
+
+Lemma to_list_eq_get (s1 s2 : string) :
+  to_list s1 = to_list s2 ->
+  forall i, (i <? length s1)%uint63 = true -> get s1 i = get s2 i.
```
Comment (silene) [inline theories/Strings/PString.v:269]: The hypothesis on `i` seems useless. In fact, it should be possible to prove the stronger result `to_list s1 = to_list s2 -> s1 = s2`, which would subsume both this lemma and the previous one.

File: theories/Strings/PString.v [hunk 41]
```diff
@@ -0,0 +1,1052 @@
...
+    2: { rewrite empty_length. ring_simplify (length s + 0)%uint63. apply valid_length. }
+    lazy in Hi. ring_simplify (length s + 0)%uint63 in Hi.
+    rewrite cat_get_spec_l; [reflexivity| |assumption].
+    rewrite empty_length. ring_simplify (length s + 0)%uint63.
+    apply valid_length.
+Qed.
+
+Lemma cat_assoc (s1 s2 s3 : string) :
+  (to_Z (length s1) + to_Z (length s2) + to_Z (length s3) <= to_Z max_length)%Z ->
+  cat (cat s1 s2) s3 = cat s1 (cat s2 s3).
```
Comment (silene) [inline theories/Strings/PString.v:594]: It seems to me this property should be universally true.

File: theories/Strings/PString.v [hunk 42]
```diff
@@ -0,0 +1,1052 @@
...
+  { unfold range_valid. ring_simplify (length s - 0)%uint63. lia. }
+  split.
+  - rewrite sub_length_spec; [reflexivity|assumption].
+  - intros i. rewrite sub_length_spec; [|assumption]. intros Hi.
+    rewrite sub_get_spec; [f_equal; ring|assumption|assumption].
+Qed.
+
+Lemma sub_len_0 (off : int) (s : string) :
+  (off <=? length s = true)%uint63 ->
+  sub s off 0 = empty.
```
Comment (silene) [inline theories/Strings/PString.v:651]: Is the hypothesis needed?

File: theories/Strings/PString.v [hunk 43]
```diff
@@ -0,0 +1,1052 @@
...
+      rewrite Z.mod_small in Hr31; [|lia].
+      rewrite !Z.mod_small in Hr32; try lia.
+      2: { rewrite Z.mod_small; [|lia]. lia. }
+      rewrite Z.mod_small; [|lia]. lia. }
+    rewrite !sub_get_spec; try assumption. f_equal. ring.
+Qed.
+
+(** * Conversion to / from lists *)
+
+Definition to_list (s : string) : list char63 :=
```
Comment (silene) [inline theories/Strings/PString.v:733]: Duplication of `PrimStringAxioms.v`?

File: theories/Strings/PString.v [hunk 44]
```diff
@@ -0,0 +1,1052 @@
...
+Proof.
+  remember (Z.to_nat (to_Z i)) as n eqn:Hn.
+  revert i c Hn. induction n as [|n IH]; intros i c Hn Hvalid Hlen.
+  - assert (i = 0%uint63) as -> by lia. rewrite make_0. reflexivity.
+  - rewrite to_list_make_snoc; [|assumption|assumption|lia]. rewrite IH.
+    + rewrite <-List.repeat_cons. reflexivity.
+    + rewrite Uint63.sub_spec. simpl. rewrite Z.mod_small; lia.
+    + assumption.
+    + revert Hlen. unfold length_valid. intros Hlen.
+      rewrite leb_spec, Uint63.sub_spec, Z.mod_small; lia.
```
Comment (silene) [inline theories/Strings/PString.v:984]: The proof seems way too complicated. Isn't that a trivial corollary of `make_spec`?

**Comment by rlepigre** [comment]
@silene thanks for the comments. I should have said, but `PString.v` is still in a rough shape, and has not been cleaned-up fully since the last changes to the axioms (I'm mainly focusing on fixing CI for the moment). So it is definitely not ready to be reviewed.

By the way, the lemmas at the start of the file just corresponds to the first version of the axioms, which I re-proved from the new ones to make sure I did not mess up. Some of them indeed are quite useless, and I will remove them.

**Comment by rlepigre** [comment]
@coqbot run full ci

**Comment by rlepigre** [comment]
@coqbot run full ci

**Comment by rlepigre** [comment]
@coqbot run full ci

File: theories/Strings/PString.v (hunk 41 above)
Comment (rlepigre) [reply theories/Strings/PString.v:640]: It is indeed.

**Comment by rlepigre** [comment]
@coqbot run full ci

**Comment by rlepigre** [comment]
@silene I believe I addressed all of your comments on `PString.v`, and it is now in a much better shape. In particular, I removed all the now useless hypotheses. Could you have another look?

**Comment by rlepigre** [comment]
From my side, this PR is pretty much ready. I believe that all comments were addressed, and that CI is green (or close to being green).

File: theories/Strings/PrimStringAxioms.v [hunk 45]
```diff
@@ -0,0 +1,69 @@
+Require Import Uint63.
+Require Import PrimString.
+Require Import ZArith.
+
+Open Scope Z_scope.
+Open Scope list_scope.
+
+Notation to_nat i := (Z.to_nat (to_Z i)).
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:8]: Probably you want `#[local]` here, right?  Or else it deserves to live in `PrimString` instead of the Axioms file?
```suggestion
#[local]
Notation to_nat i := (Z.to_nat (to_Z i)).
```

File: theories/Strings/PrimStringAxioms.v [hunk 46]
```diff
@@ -0,0 +1,69 @@
+Require Import Uint63.
+Require Import PrimString.
+Require Import ZArith.
+
+Open Scope Z_scope.
+Open Scope list_scope.
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:6]: Does open scope default to local or export?  If export, it should be prefixed with local.

File: theories/Strings/PrimStringAxioms.v [hunk 47]
```diff
@@ -0,0 +1,69 @@
...
+
+Notation to_nat i := (Z.to_nat (to_Z i)).
+
+Definition char63_valid (c : char63) :=
+  (c land 255 = c)%uint63.
+
+Notation char63_compare := PrimInt63.compare (only parsing).
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:13]: Should this live in `PrimString` instead of the Axioms file?

File: theories/Strings/PrimStringAxioms.v [hunk 48]
```diff
@@ -0,0 +1,69 @@
...
+
+(** * Conversion to / from lists *)
+
+Definition to_list (s : string) : list char63 :=
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:17]: Why are these defined here rather than in `PrimString`?  Shouldn't we have them under the `PrimString` namespace?

File: theories/Strings/PrimStringAxioms.v [hunk 49]
```diff
@@ -0,0 +1,69 @@
...
+  (fix to_list len :=
+     match len with
+     | O     => nil
+     | S len => app (to_list len) (get s (of_Z (BinInt.Z.of_nat len)) :: nil)
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:21]: This is quadratic.  Should we call it `to_list_slow` to indicate that, or at least `to_list'` or `to_list_alt`?  Or, better, just do `List.map (fun i => get s (of_nat i)) (seq 0 (to_nat (length s))` or whatever?

File: theories/Strings/PrimStringAxioms.v [hunk 50]
```diff
@@ -0,0 +1,69 @@
...
+     end) (BinInt.Z.to_nat (to_Z (length s))).
+Arguments to_list _%_pstring.
+
+Fixpoint of_list (cs : list char63) : string :=
+  match cs with
+  | nil       => empty
+  | cons c cs => cat (make 1 c) (of_list cs)
```
Comment (JasonGross) [inline theories/Strings/PrimStringAxioms.v:28]: This is also quadratic, right?  Surely it's better to add `PString.init`?  Or route through primitive arrays?

**Review by JasonGross — COMMENTED** [review]
These specs look much better!  I've left some sometimes about the definitions used in the specs.

**Comment by rlepigre** [comment]
The only remaining CI failure is with `serapi` (see [here](https://gitlab.inria.fr/coq/coq/-/jobs/4422274), and I have no idea why anything should have changed.

File: theories/Strings/PrimStringAxioms.v (hunk 49 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v]: That one was trivial to fix.

File: theories/Strings/PrimStringAxioms.v (hunk 50 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:25]: In that direction, I'm not sure what to do. It's not possible to add `PString.init`, since primitives cannot be higher-order as far as I know (OCaml code would need to run a Coq function to compute the value of the character at each index). One thing we could do is add a `concat` primitive with type `string -> list string -> string` instead of `cat`, and then implement `of_list` as:
```Coq
Definition of_list (cs : list char63) : string := concat "" (List.map (make 1) cs)
```
However, at this stage, this feels like quite a big change. I'd like this MR to get into 8.20, which seems possible at this point.

File: theories/Strings/PrimStringAxioms.v (hunk 48 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:18]: I think @proux01 argued that `PrimString` should contain only the primitives, so that the file has as few dependencies as possible and can be more easily worked with when a debugger needs to be run.

File: theories/Strings/PrimStringAxioms.v (hunk 47 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:14]: Possibly, this way it would be next to the definition of `char63`, but see my other comment about keeping `PrimString` minimal.

File: theories/Strings/PrimStringAxioms.v (hunk 46 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:6]: It is export outside of sections it seems.

File: theories/Strings/PrimStringAxioms.v (hunk 45 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v:8]: I'm not sure what to do about these, and also the `min_int` function. Perhaps these should go in primitive-integer-related files?

File: theories/Lists/List.v [hunk 51]
```diff
@@ -2850,6 +2879,163 @@ Section NatSeq.
...
+        match xs', ys' with
+        | nil   , nil    => c = Eq
+        | nil   , _      => c = Lt
+        | _     , nil    => c = Gt
+        | x :: _, y :: _ =>
+            match cmp x y with
+            | Eq => False
+            | cm => c = cm
+            end
+        end.
```
Comment (proux01) [inline theories/Lists/List.v:2927]: This really doesn't look nice, but I guess it's not like this part of the code would be perfect anyway.

**Review by proux01 — APPROVED** [review]
I'd like to merge by thursday (we should merge all the synchronous overlays way before the branch) if the few minor comments left can be adressed and if there are no other comments.

File: theories/Strings/PrimStringAxioms.v (hunk 45 above)
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v]: OK, I moved it there.

File: theories/Strings/PrimStringAxioms.v [hunk 52]
```diff
@@ -0,0 +1,66 @@
...
+  end.
+
+(** * Axioms relating string operations with list operations *)
+
+Axiom valid_length :
+  forall (s : string),
+    Z.of_nat (List.length (to_list s)) <= to_Z max_length.
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v]: Actually, I like the alternative better.

File: theories/Strings/PrimStringAxioms.v [hunk 53]
```diff
@@ -0,0 +1,66 @@
...
+
+Axiom length_spec :
+  forall (s : string),
+    to_nat (length s) = List.length (to_list s).
+
+Axiom get_spec :
+  forall (s : string) (i : int),
+    char63_valid (get s i) /\
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v]: I made this part of the `to_list` spec.

File: theories/Strings/PrimStringAxioms.v [hunk 54]
```diff
@@ -0,0 +1,66 @@
...
+
+Axiom compare_spec :
+  forall (s1 s2 : string),
+    compare s1 s2 =
+      List.list_compare char63_compare (to_list s1) (to_list s2).
+
+Axiom string_eq_correct :
+  forall s1 s2 : string,
+    string_eq s1 s2 ->
+    s1 = s2.
```
[the remark this answers is not in the document]
Comment (rlepigre) [reply theories/Strings/PrimStringAxioms.v]: Indeed, that's a much better axiom, so I went with it.

File: test-suite/primitive/string/test.v (hunk 20 above)
Comment (rlepigre) [reply test-suite/primitive/string/test.v:12]: Test added.

File: theories/Strings/PrimString.v (hunk 21 above)
Comment (rlepigre) [reply theories/Strings/PrimString.v]: Things are working OK right now, so let's keep things as they are unless something better comes up.

File: theories/Lists/List.v (hunk 51 above)
Comment (rlepigre) [reply theories/Lists/List.v:2927]: I can't say I love this either, but I'm not sure how to make it better.

File: theories/Strings/PrimStringAxioms.v [hunk 55]
```diff
@@ -0,0 +1,66 @@
...
+Definition char63_valid (c : char63) :=
+  (c land 255 = c)%uint63.
+
+Notation char63_compare := PrimInt63.compare (only parsing).
+
+(** * Conversion to / from lists *)
+
+Definition to_list (s : string) : list char63 :=
+  List.map (fun i => get s (of_nat i)) (List.seq 0 (to_nat (length s))).
+Arguments to_list _%_pstring.
```
[the remark this answers is not in the document]
Comment (JasonGross) [reply theories/Strings/PrimStringAxioms.v:15]: Should this be removed now?

File: theories/Strings/PrimString.v [hunk 56]
```diff
@@ -0,0 +1,64 @@
...
+  String Notation int_wrapper parse print : char63_scope.
+  Coercion int_wrap : int_wrapper >-> int.
+End Char63Notations.
+
+Definition string_eq (s1 s2 : string) : Prop := compare s1 s2 = Eq.
+Definition string_lt (s1 s2 : string) : Prop := compare s1 s2 = Lt.
+Definition string_gt (s1 s2 : string) : Prop := compare s1 s2 = Gt.
+Definition string_ne (s1 s2 : string) : Prop := not (string_eq s1 s2).
+Definition string_le (s1 s2 : string) : Prop := not (string_gt s1 s2).
+Definition string_ge (s1 s2 : string) : Prop := not (string_lt s1 s2).
```
[the remark this answers is not in the document]
Comment (proux01) [reply theories/Strings/PrimString.v]: By the way, not sure why those are in Prop, they could just as well be computable, but why not.

File: theories/Strings/PrimStringAxioms.v (hunk 55 above)
[the remark this answers is not in the document]
Comment (proux01) [reply theories/Strings/PrimStringAxioms.v:15]: The Bind Scope should make it redundant so yes it could.

File: theories/Lists/List.v (hunk 51 above)
Comment (proux01) [reply theories/Lists/List.v:2927]: Maybe with an inversion lemma, something like
```Coq
Variant ListCompareSpec cmp l1 l2 c :=
| ListCompareEq : l1 = l2 -> ListCompareSpec l1 l2 Eq
| ListCompareShorter : forall l2', l2 = l1 ++ l2' -> ListCompareSpec l1 l2 Lt
| ListCompareLonger : forall l1', l1 = l2 ++ l1' -> ListCompareSpec l1 l2 Gt
| ListCompareLt : forall l x1 l1' x2 l2', l1 = l ++ x1 :: l1' -> l2 = l ++ x2 :: l2' -> cmp x1 x2 = Lt -> ListCompareSpec cmp l1 l2 Lt
| ListCompareGt : forall l x1 l1' x2 l2', l1 = l ++ x1 :: l1' -> l2 = l ++ x2 :: l2' -> cmp x1 x2 = Gt -> ListCompareSpec cmp l1 l2 Gt.

Lemma list_compareP cmp l1 l2 : ListCompareSpec cmp l1 l2 (list_compare cmp l1 l2).
```
The lemma could then be used with `case`, but I haven't actually tried.

Or even maybe
```Coq
Variant ListCompareSpec cmp l1 l2 c :=
| ListCompareEq : l1 = l2 -> ListCompareSpec l1 l2 Eq
| ListCompareShorter : forall l2', ListCompareSpec l1 (l1 ++ l2') Lt
| ListCompareLonger : forall l1', ListCompareSpec (l2 ++ l1') l2 Gt
| ListCompareLt : forall l x1 l1' x2 l2', cmp x1 x2 = Lt -> ListCompareSpec cmp (l ++ x1 :: l1') (l ++ x2 :: l2') Lt
| ListCompareGt : forall l x1 l1' x2 l2', cmp x1 x2 = Gt -> ListCompareSpec cmp (l ++ x1 :: l1') (l ++ x2 :: l2') Gt.

Lemma list_compareP cmp l1 l2 : ListCompareSpec cmp l1 l2 (list_compare cmp l1 l2).
```

Comment (silene) [reply theories/Lists/List.v:2927]: Those specifications are not quite right, since `l1'` and `l2'` could be empty.

File: theories/Strings/PString.v [hunk 57]
```diff
@@ -0,0 +1,717 @@
...
+Proof.
+  rewrite get_spec.
+  destruct (to_nat i <? Datatypes.length (to_list s))%nat eqn:Hlt.
+  - pose proof to_list_char63_valid s as Hvalid.
+    apply List.Forall_nth; [assumption|lia].
+  - rewrite List.nth_overflow; [reflexivity|lia].
+Qed.
+
+Lemma make_get_spec (i j : int) (c : char63) :
+  to_Z i <= to_Z max_length ->
```
Comment (silene) [inline theories/Strings/PString.v:176]:
```suggestion
  to_Z j <= to_Z max_length ->
```

File: theories/Strings/PString.v [hunk 58]
```diff
@@ -0,0 +1,717 @@
...
+  pose proof valid_length s1 as Hs1.
+  rewrite !get_spec, cat_spec.
+  rewrite List.nth_firstn. case_if; [|lia].
+  rewrite List.app_nth1; [reflexivity|].
+  rewrite <-length_spec. lia.
+Qed.
+
+Lemma cat_get_spec_r (s1 s2 : string) (i : int) :
+  to_Z (length s1) <= to_Z i ->
+  to_Z i < to_Z max_length ->
```
Comment (silene) [inline theories/Strings/PString.v:223]: Is this hypothesis needed?

File: theories/Strings/PString.v [hunk 59]
```diff
@@ -0,0 +1,717 @@
...
+Lemma string_eq_correct (s1 s2 : string) :
+  string_eq s1 s2 -> s1 = s2.
+Proof.
+  unfold string_eq. rewrite compare_spec.
+  rewrite (List.list_compare_refl _ char63_compare_refl).
+  apply to_list_inj.
+Qed.
+
+Lemma string_eq_ext (s1 s2 : string) :
+  s1 = s2 <->
```
Comment (silene) [inline theories/Strings/PString.v:253]: The left-to-right direction is kind of useless, so it might be better to just have `<-`, so it can be more easily used.

File: theories/Lists/List.v (hunk 51 above)
Comment (proux01) [reply theories/Lists/List.v:2927]: Indeed, should be
```Coq
Variant ListCompareSpec cmp l1 l2 c :=
| ListCompareEq : l1 = l2 -> ListCompareSpec l1 l2 Eq
| ListCompareShorter : forall x2 l2', ListCompareSpec l1 (l1 ++ x2 :: l2') Lt
| ListCompareLonger : forall x1 l1', ListCompareSpec (l2 ++ x1 :: l1') l2 Gt
| ListCompareLt : forall l x1 l1' x2 l2', cmp x1 x2 = Lt -> ListCompareSpec cmp (l ++ x1 :: l1') (l ++ x2 :: l2') Lt
| ListCompareGt : forall l x1 l1' x2 l2', cmp x1 x2 = Gt -> ListCompareSpec cmp (l ++ x1 :: l1') (l ++ x2 :: l2') Gt.

Lemma list_compareP cmp l1 l2 : ListCompareSpec cmp l1 l2 (list_compare cmp l1 l2).
```
(but it's probably more convenient to keep the equalities like in first variant or even combine both)

File: theories/Strings/PString.v (hunk 59 above)
Comment (proux01) [reply theories/Strings/PString.v:253]: On the other hand, the equivalence simplifies use with setoid_rewrite, so it's not that obvious.

File: theories/Strings/PString.v (hunk 58 above)
Comment (rlepigre) [reply theories/Strings/PString.v:223]: I think you do, otherwise `get (cat s1 s2) = 0%uint63` but `i - length s1` could be a valid index in `s2` so you can't prove the equality. In that case, you end up stuck with a goal looking like the following.
```
  H : φ (max_length)%uint63 <= φ (i)%uint63
  ============================
  to_Z (length s2) <= φ (i)%uint63 - to_Z (length s1)
```

File: theories/Strings/PString.v [hunk 60]
```diff
@@ -0,0 +1,717 @@
...
+  apply string_eq_ext. split.
+  - rewrite cat_length_spec_no_overflow; simpl in *; [ring|lia].
+  - intros i Hi.
+    rewrite cat_length_spec_no_overflow in Hi; [|simpl in * |- *; lia].
+    simpl in Hi. ring_simplify (length s + 0)%uint63 in Hi.
+    rewrite cat_get_spec_l; [reflexivity|assumption].
+Qed.
+
+Lemma int_min_add_min_add_n_same (m i1 i2 i3 : int) :
+  to_Z m + to_Z i1 + to_Z i2 + to_Z i3 < wB ->
```
Comment (silene) [inline theories/Strings/PString.v:531]: Why is there `to_Z m` in this hypothesis? Also, why is there both `i1` and `i2`? Why not a single variable?

File: theories/Strings/PString.v [hunk 61]
```diff
@@ -0,0 +1,717 @@
...
+Qed.
+
+Lemma sub_len_0 (off : int) (s : string) :
+  sub s off 0 = ""%pstring.
+Proof.
+  apply to_list_inj. rewrite sub_spec. reflexivity.
+Qed.
+
+Lemma split_cat_sub (s : string) (len : int) :
+  to_Z len <= to_Z (length s) ->
```
Comment (silene) [inline theories/Strings/PString.v:603]: I think this hypothesis is not needed.

File: theories/Strings/PString.v (hunk 57 above)
Comment (rlepigre) [reply theories/Strings/PString.v]: This works, but we need `to_Z j < to_Z max_length`.

File: theories/Strings/PString.v (hunk 59 above)
Comment (silene) [reply theories/Strings/PString.v:248]: To apply `setoid_rewrite` from right to left, you would need the current goal to contain exactly the right-hand side, which seems very unlikely. Or am I missing something? (Since I never use `setoid_rewrite`, I might be underestimating it.)

File: theories/Strings/PString.v (hunk 58 above)
Comment (silene) [reply theories/Strings/PString.v:218]: Good point.

File: theories/Strings/PString.v (hunk 59 above)
Comment (proux01) [reply theories/Strings/PString.v:248]: The citation was missing the right-hand-side and I did not look at it. I agree here rewriting right to left seems unlikely.

File: test-suite/misc/PStringExtraction.out [hunk 62]
```diff
@@ -0,0 +1,71 @@
...
+Warning: The following axiom must be realized in the extracted code:
+ int.
+ [extraction-axiom-to-realize,extraction,default]
+
+type comparison =
+| Eq
+| Lt
+| Gt
+
+type int (* AXIOM TO BE REALIZED *)
```
Comment (silene) [inline test-suite/misc/PStringExtraction.out:11]: There is something wrong here. Perhaps the file `ExtrOCamlPString` should import `ExtrOCamlInt63`?

File: test-suite/misc/PStringExtraction.out [hunk 63]
```diff
@@ -0,0 +1,71 @@
...
+
+(** val cat : Pstring.t -> Pstring.t -> Pstring.t **)
+
+let cat = Pstring.cat
+
+(** val compare : Pstring.t -> Pstring.t -> comparison **)
+
+let compare = (fun x y -> let c = Pstring.compare x y in if c = 0 then Eq else if c < 0 then Lt else Gt)
+
+module Char63Notations =
```
Comment (silene) [inline test-suite/misc/PStringExtraction.out:35]: Is it possible to make it so that this module `Char63Notations` is never extracted?

File: theories/Strings/PString.v (hunk 61 above)
Comment (rlepigre) [reply theories/Strings/PString.v:603]: It is necessary, otherwise the substraction can overflow.

File: test-suite/misc/PStringExtraction.out (hunk 62 above)
Comment (rlepigre) [reply test-suite/misc/PStringExtraction.out]: Fixed.

File: test-suite/misc/PStringExtraction.out (hunk 63 above)
Comment (rlepigre) [reply test-suite/misc/PStringExtraction.out]: That's because `char63_wrapper` was defined in the module, I moved it to the outside and that did the trick.

File: theories/Strings/PString.v (hunk 61 above)
Comment (silene) [reply theories/Strings/PString.v:601]: Overflow does not matter. If `len` is larger than the length, then `sub s 0 len` is `s`, and `sub s len _` is empty, irrespective of the behavior of the subtraction. So, their concatenation is still `s`.

File: theories/Strings/PString.v (hunk 60 above)
Comment (silene) [reply theories/Strings/PString.v]: This is strange. I don't see why you would need `to_Z i1 + to_Z i2` for the proof. It seems to me that you should only need `to_Z (i1 + i2)`. In turn, you could just replace `i1 + i2` by some variable `i0`.
```coq
Lemma int_min_add_min_add_n_same (m i0 i3 : int) :
  to_Z i0 + to_Z i3 < wB ->
  Uint63.min m (Uint63.min m i0 + i3) = Uint63.min m (i0 + i3).
```

File: theories/Strings/PString.v [hunk 64]
```diff
@@ -0,0 +1,710 @@
...
+  end.
+
+(** Definitions. *)
+
+Definition string_eq (s1 s2 : string) : Prop := compare s1 s2 = Eq.
+Definition string_lt (s1 s2 : string) : Prop := compare s1 s2 = Lt.
+Definition string_gt (s1 s2 : string) : Prop := compare s1 s2 = Gt.
+Definition string_ne (s1 s2 : string) : Prop := not (string_eq s1 s2).
+Definition string_le (s1 s2 : string) : Prop := not (string_gt s1 s2).
+Definition string_ge (s1 s2 : string) : Prop := not (string_lt s1 s2).
```
Comment (silene) [inline theories/Strings/PString.v:28]: I kind of feel that these definitions will make the life of the user needlessly tedious. Unless there is a good rationale for them, I would just get rid of them and simply use `compare s1 s2 = ...` and `compare s1 s2 <> ...` in all the subsequent theorem statements. In particular, this would make it possible for users to directly rewrite `compare s1 s2` expressions into their reduced forms.

Comment (rlepigre) [reply theories/Strings/PString.v]: Done.

File: theories/Strings/PString.v (hunk 61 above)
Comment (rlepigre) [reply theories/Strings/PString.v]: Indeed, you're right!

File: theories/Strings/PString.v (hunk 60 above)
Comment (rlepigre) [reply theories/Strings/PString.v]: Indeed, that was a silly intermediate lemma. I did the generalized it as you suggested, and moved it to `Uint63.v`. I did the same with the other one.

File: theories/Strings/PrimStringAxioms.v [hunk 65]
```diff
@@ -0,0 +1,65 @@
...
+  | cons c cs => cat (make 1 c) (of_list cs)
+  end.
+
+Axiom of_to_list :
+  forall (s : string),
+    of_list (to_list s) = s.
+
+Axiom to_list_length :
+  forall (s : string),
+    Z.of_nat (List.length (to_list s)) <= to_Z max_length.
```
Comment (silene) [inline theories/Strings/PrimStringAxioms.v:29]: Since everything else is expressed in terms of `nat`, this axiom seems a bit strange.

```suggestion
    List.length (to_list s) <= to_nat max_length.
```

**Review by silene — APPROVED** [review]
I think this is starting to look really good. So, once my last comment about `to_list_length` is addressed and once the commit history has been fixed, I consider this pull request ready to be merged.

File: theories/Lists/List.v (hunk 51 above)
Comment (rlepigre) [reply theories/Lists/List.v:2927]: In the end, here is what we came up with: https://github.com/rlepigre/coq/commit/ce833a9a94e6ff783c784aa614ac518005575a8c. Let me know if you want to include it here, or if you have suggestions on how to improve it @proux01.

Comment (proux01) [reply theories/Lists/List.v:2927]: As you want, we can as well merge as it is if you prefer. It's only not nice, nothing broken, this could always be improved later.

Comment (rlepigre) [reply theories/Lists/List.v]: Alright, I found some time to clean this up further, so let's take it. This also adds more theory of `list_compare`, so I guess that's good.

**Comment by rlepigre** [comment]
I'm happy with the state of the MR now. Do we want to run a bench just in case?

**Comment by proux01** [comment]
I'm not expecting anything noticeable but let's keep on the safe side.

@coqbot bench now

Merging tomorrow provided bench doesn't show anything, CI is green and nobody screams.

**Comment by rlepigre** [comment]
I just noticed that I did not adapt the metacoq overlay yet, after renaming lemmas, I'm on it.

**Comment by proux01** [comment]
@coqbot run full ci

File: plugins/ltac2/tac2core.ml [hunk 66]
```diff
@@ -675,7 +677,10 @@ let () =
   | (18, [|f|]) ->
     let f = Tac2ffi.to_float f in
     EConstr.mkFloat f
-  | (19, [|u;t;def;ty|]) ->
+  | (19, [|s|]) ->
+    let s = Tac2ffi.to_string s in
+    EConstr.mkString s
+  | (20, [|u;t;def;ty|]) ->
```
Comment (rlepigre) [inline plugins/ltac2/tac2core.ml:683]: That's where the problem is, to be explicit.

Comment (rlepigre) [reply plugins/ltac2/tac2core.ml:683]: (My local fix include a new Ltac2 `pstring` type, and a new  `Ltac2.Pstring` module defining functions on it.)

Comment (rlepigre) [reply plugins/ltac2/tac2core.ml]: OK, I pushed a fix, and I'm adapting overlays.

**Comment by rlepigre** [comment]
@coqbot run full ci

File: plugins/ltac2/tac2core.ml (hunk 66 above)
Comment (proux01) [reply plugins/ltac2/tac2core.ml]: I'm no Ltac2 expert but the solution sounds reasonable to me.
About the fact that it is possible to forge with plugins terms that would enable to violate the <= max_length axiom, this was already the case with primitive arrays IIUC so nothing really new.

Comment (rlepigre) [reply plugins/ltac2/tac2core.ml]: I see, OK. At least now it's not possible anymore with primitive strings!

Comment (rlepigre) [reply plugins/ltac2/tac2core.ml]: CC @SkySkimmer in case you want to have a look at the Ltac2 stuff.

**Comment by rlepigre** [comment]
@proux01 I'm not able to create an overlay MR for https://github.com/rlepigre/itauto/tree/br/prim-string myself, since I don't have access to Inria GitLab. If you do, would you mind creating the MR for me using my branch? (The fix is backward-compatible, so it can be merged directly.)

File: plugins/ltac2/tac2ffi.mli [hunk 67]
```diff
@@ -182,6 +186,7 @@ val val_binder : (Name.t EConstr.binder_annot * types) Val.tag
 val val_free : Id.Set.t Val.tag
 val val_uint63 : Uint63.t Val.tag
 val val_float : Float64.t Val.tag
+val val_pstring : Pstring.t Val.tag
```
Comment (SkySkimmer) [inline plugins/ltac2/tac2ffi.mli:189]: I think we don't need to expose this. The other `val_*` have not been better than exposing to/of/repr functions AFAICT

File: kernel/pstring.ml [hunk 68]
```diff
@@ -0,0 +1,79 @@
...
+let equal : t -> t -> bool =
+  String.equal
+
+let hash : t -> int =
+  Hashtbl.hash
+
+let unsafe_of_string : string -> t = fun s -> s
+
+let compile : t -> string =
+  let _ = unsafe_of_string in (* Used in generated code. *)
```
Comment (SkySkimmer) [inline kernel/pstring.ml:78]: ???

File: plugins/ltac2/tac2ffi.mli (hunk 67 above)
Comment (rlepigre) [reply plugins/ltac2/tac2ffi.mli:189]: That was only for consistency, shall I remove this?

File: kernel/pstring.ml (hunk 68 above)
Comment (rlepigre) [reply kernel/pstring.ml:78]: The aim was to make sure the function does not get deleted, as it is only used via `compile`.

**Comment by proux01** [comment]
> @proux01 I'm not able to create an overlay MR for https://github.com/rlepigre/itauto/tree/br/prim-string myself, since I don't have access to Inria GitLab. If you do, would you mind creating the MR for me using my branch? (The fix is backward-compatible, so it can be merged directly.)

I don't either. @fajb could you please cherry pick https://github.com/rlepigre/itauto/commit/383af05c26de1160e6629e4284fcb06ddfb59a7e on top of the master branch of itauto?

**Comment by rlepigre** [comment]
FYI @ejgallego is looking at the `serapi` issue, which might be an issue with the `coq_lsp` overlay.

File: kernel/pstring.ml (hunk 68 above)
Comment (SkySkimmer) [reply kernel/pstring.ml:78]: I would rather put the comment in the mli then

File: plugins/ltac2/tac2ffi.mli (hunk 67 above)
Comment (SkySkimmer) [reply plugins/ltac2/tac2ffi.mli:189]: yes

**Comment by rlepigre** [comment]
@coqbot run full ci

File: kernel/cPrimitives.mli [hunk 69]
```diff
@@ -98,6 +105,7 @@ val kind : t -> args_red
 type 'a prim_type =
   | PT_int63 : unit prim_type
   | PT_float64 : unit prim_type
+  | PT_string : unit prim_type
```
Comment (ejgallego) [inline kernel/cPrimitives.mli:108]: @rlepigre this is what was making serlib crash, unfortunately we need to use pierce here due to serialziaton limitations with gadts. See the fix in the PR.

**Comment by rlepigre** [comment]
@coqbot run full ci

File: kernel/cPrimitives.mli (hunk 69 above)
Comment (rlepigre) [reply kernel/cPrimitives.mli:108]: Cool, thanks for figuring this out!

Comment (ejgallego) [reply kernel/cPrimitives.mli:108]: We have 8 piercing uses in the serlib codebase, I usually review them at Coq release time, by hand.

But it is indeed an error prone process, I'm trying to add tests for these 8 cases.

**Comment by fajb** [comment]
> I don't either. @fajb could you please cherry pick [rlepigre/itauto@383af05](https://github.com/rlepigre/itauto/commit/383af05c26de1160e6629e4284fcb06ddfb59a7e) on top of the master branch of itauto?

Done.

**Comment by rlepigre** [comment]
@proux01 Assuming the `pkg:nix` failure is a fluke, I believe we are all good. I'm not gonna trigger full CI again, but `itauto` should now be fixed too, and the current full CI run only has `fiat_crypto` stuff left (which did not have any issue in previous runs of full CI).

**Comment by proux01** [comment]
@coqbot merge now

File: kernel/constr.ml [hunk 70]
```diff
@@ -1402,13 +1412,14 @@ let rec hash_term (t : t) =
     let (h,l) = Uint63.to_int2 i in
     (t, combinesmall 18 (combine h l))
   | Float f as t -> (t, combinesmall 19 (Float64.hash f))
+  | String s as t -> (t, combinesmall 21 (Pstring.hash s))
```
[the remark this answers is not in the document]
Comment (SkySkimmer) [reply kernel/constr.ml:1415]: also should identical strings (and superterms) not get shared?

[the remark this answers is not in the document]
Comment (rlepigre) [reply kernel/constr.ml:1415]: Oups, I guess that's from when I removed the `Char` constructor.

[the remark this answers is not in the document]
Comment (rlepigre) [reply kernel/constr.ml:1415]: I'll make an MR and check again similar functions.

[the remark this answers is not in the document]
Comment (rlepigre) [reply kernel/constr.ml:1415]: See https://github.com/coq/coq/pull/19212.
